US08471005B2
{2-Methoxy-4-[4-(1-methyl-piperidin-4-yl)-[1,4]diazepan-1-yl]-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Following the experimental procedure described in Example 753, 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine and 2-methoxy-4-[4-(1-methyl-piperidin-4-yl)-perhydro-1,4-diazepin-1-yl]-phenylamine were converted to 2-methoxy-4-(1-{(S)-3,3,3-trifluoro-2-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yloxy]-propyl}-piperidin-4-yl)-phenylamine as a yellow solid (61 mg, 46%). MP: 71-80° C.; 1H-NMR (CDCl3) δ 8.64 (s, 1H), 8.13 (d, J=8.7 Hz, 1H), 8.06 (d, J=7.6 Hz, 1H), 7.40 (m, 1H), 7.15 (s, 1H), 7.11 (m, 1H), 7.05 (d, J=8.4 Hz, 1H), 7.00 (d, J=2.5 Hz, 1H), 6.78 (d, J=3.2 Hz, 1H), 6.27 (s, 1H), 6.18 (d, J=8.8 Hz, 1H), 3.86 (s, 3H), 3.84 (s, 3H), 3.50 (br s, 4H), 2.87 (m, 4H), 2.64 (br s, 2H), 2.47 (m, 1H), 2.25 (s, 3H), 1.93 (m, 4H), 1.72 (m, 2H), 1.61 (m, 2H); LC/MS (ESI+): 542.3 (M+H).

reactant | 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 2-methoxy-4-[4-(1-methyl-piperidin-4-yl)-perhydro-1,4-diazepin-1-yl]-phenylamine | COC1=C(C=CC(=C1)N1CCN(CCC1)C1CCN(CC1)C)N | C18H30N4O
reactant | 2-methoxy-4-(1-{(S)-3,3,3-trifluoro-2-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yloxy]-propyl}-piperidin-4-yl)-phenylamine | 61 mg | COC1=C(C=CC(=C1)C1CCN(CC1)C[C@@H](C(F)(F)F)OC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)N | C28H30F3N5O3
product | {2-Methoxy-4-[4-(1-methyl-piperidin-4-yl)-[1,4]diazepan-1-yl]-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | COC1=C(C=CC(=C1)N1CCN(CCC1)C1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C31H39N7O2
